US04487930
An ethanol solution of 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine was treated with an excess of ethereal hydrogen chloride. The precipitate which formed was separated by filtration to give 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine dihydrochloride melting at about 274°-275° C.

reactant | 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | N1(CCCC1)CCNC1=NN2C(C=3CCCCC13)=NN=C2 | C15H22N6
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine dihydrochloride | Cl.Cl.N1(CCCC1)CCNC1=NN2C(C=3CCCCC13)=NN=C2 | InChI=1S/C15H22N6.2ClH/c1-2-6-13-12(5-1)14(19-21-11-17-18-15(13)21)16-7-10-20-8-3-4-9-20;;/h11H,1-10H2,(H,16,19);2*1H
